US07256218B2
A solution of 3,4-dichlorophenol (Alfa Aesar, Ward Hill, Mass.) is treated with acetic anhydride and an appropriate base such as pyridine. When the reaction is complete the reaction mixture is diluted with aqueous hydrochloric acid and extracted with an organic solvent. The organic solvent is washed with water, dried over magnesium sulfate, filtered and rotary evaporated to give crude 1-acetoxy-3,4-dichlorobenzene that may be used with or without further purification in the following reaction.

reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | Cl | ClH
product | 1-acetoxy-3,4-dichlorobenzene | C(C)(=O)OC1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O2
